US07560467B2
(a) 6-Chloro-1H-indazol-5-amine
5-Chloro-2-methyl-4-nitroaniline (1.0 g, 5.3 mmol, 1.0 equiv) was dissolved in AcOH (46 mL) and cooled to 15° C. NaNO2 (0.37 g, 5.3 mmol, 1.0 equiv) was dissolved In H2O (1 mL) and added all at once via pipet. The reaction was warmed to room temperature and stirred for 28 hours. The reaction mixture was concentrated en vacuo to provide an orange solid, which was azeotroped several times with hexanes. The solid was dissolved in EtOH (12 mL) and added to a solution of SnCl2 (3.4 g, 18 mmol, 3.4 equiv) in 6N HCl (12 mL) The reaction mixture was heated to 60° C. for two hours, then cooled to room temperature and basified with 50% NaOH. The resulting precipitate was removed by filtration and washed with EtOAc. The filtrate was transferred to a separatory funnel and the phases were separated. The aqueous phase was extracted with EtOAc, and the combined organic phases were dried over Na2SO4. The solution was filtered, and the filtrate was concentrated in vacuo. The resulting residue was purified by flash chromatography (25% EtOAc/CH2Cl2) to afford 170 mg (19%) of the title compound as a pale yellow solid.

reactant | 5-Chloro-2-methyl-4-nitroaniline | 5.3 mmol, 1.0 g, 1.0 equiv | ClC=1C(=CC(=C(N)C1)C)[N+](=O)[O-] | C7H7ClN2O2
reactant | NaNO2 | 5.3 mmol, 0.37 g, 1.0 equiv | N(=O)[O-].[Na+]
reactant | SnCl2 | 18 mmol, 3.4 g, 3.4 equiv | Cl[Sn]Cl
reactant | NaOH | [OH-].[Na+]
solvent | AcOH | 46 mL | CC(=O)O | C2H4O2
solvent | H2O | 1 mL | O | H2O
solvent | HCl | 6N, 12 mL | Cl | ClH
product | 6-Chloro-1H-indazol-5-amine | 170 mg, 19% | ClC1=C(C=C2C=NNC2=C1)N | C7H6ClN3
